US09216173B2
To a solution of benzyl tert-butyl (3-azidopropane-1,2-diyl)biscarbamate (1.3 g, 5.4 mmol) in methanol (40 mL) was added palladium on carbon (0.13 g, 10% w/w). The mixture was stirred under a hydrogen atmosphere at room temperature. After 14 hours, the reaction mixture was filtered through CELITE, and the filtrate was concentrated under reduced pressure to give benzyl tert-butyl (3-aminopropane-1,2-diyl)biscarbamate. MS ESI calc'd. for C16H26N3O4 [M+H]+ 324. found 324. 1H NMR (400 MHz, CD3OD) 7.28-7.24 (m, 5H), 5.02 (s, 2H), 3.81-3.75 (m, 1H), 3.50-3.42 (m, 2H), 2.68-2.55 (m, 2H), 1.39 (s, 9H).

reactant | benzyl tert-butyl (3-azidopropane-1,2-diyl)biscarbamate | 5.4 mmol, 1.3 g | N(=[N+]=[N-])CC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C16H23N5O4
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | benzyl tert-butyl (3-aminopropane-1,2-diyl)biscarbamate | NCC(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O | C16H25N3O4
